US04329349
Ethyl 2-methylnicotinate
To a mixture of 800 ml. of ethyl 3-aminocrotonate, 30 ml. of piperidine and 1.4 l. of isopropanol, stirred at 25°-30° C., 540 ml. of acrolein were added slowly over a 2 hour period with stirring. Upon completion of the addition of the acrolein, the reaction mixture was heated to reflux and refluxed for 31/2 hours. Then the reaction mixture was evaporated at reduced pressure to dryness. The residue was heated to 100° C. and 610 g. of sulfur were added thereto portionwise. The reaction mixture was then heated at 100° C. for 2 hours and at 125° C. for 11/2 hours. The reaction mixture was allowed to cool to about room temperature and 1 l. of chloroform was added thereto. The reaction mixture was filtered through Celite and the filter cake was washed with additional chloroform. The combined chloroform filtrate and washings were extracted three times with 1 l. portions of 2 N. hydrochloric acid. The aqueous acidic layers were combined and, with cooling, were made basic with 2 N. sodium hydroxide solution. The obtained aqueous basic solution was extracted three times with 1 l. portions of chloroform. The chloroform extracts were combined, washed with saturated brine, dried over anhydrous sodium sulfate and evaporated at reduced pressure to obtain an oily residue which was distilled under high vacuum to obtain the pure product (350 g.), b.p. 73°-77° C./0.5 mm. Hg.

reactant | ethyl 3-aminocrotonate | N\C(=C/C(=O)OCC)\C | C6H11NO2
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | acrolein | C(=O)C=C | C3H4O
solvent | isopropanol | C(C)(C)O | C3H8O
product | Ethyl 2-methylnicotinate | CC1=C(C(=O)OCC)C=CC=N1 | C9H11NO2
